US04973426
L-isoleucine (105 g) was added to 6N-hydrochloric acid (1 l), followed by agitating the mixture, cooling it with ice, adding sodium nitrite (80 g), agitating the mixture at 0° C. for 3 hours, adding ether (300 ml), separating the resulting organic layer, extracting the aqueous layer with ether (150 ml), combining the organic layers, drying over MgSO4, distilling off ether and distilling the residue under reduced pressure, to obtain (2S,3S)-2-chloro-3-methylvaleric acid (34.2 g, b.p. 96-97/4 mmHg).

reactant | L-isoleucine | 105 g | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | hydrochloric acid | 1 l | Cl | ClH
reactant | sodium nitrite | 80 g | N(=O)[O-].[Na+]
solvent | ether | 300 ml | CCOCC | C4H10O
product | (2S,3S)-2-chloro-3-methylvaleric acid | 34.2 g | Cl[C@H](C(=O)O)[C@H](CC)C | C6H11ClO2
